US06455528B1
Synthesis of N-(4-(1-(4-(2-Methoxyphenyl)piperazin-1-yl)ethyl)phenylmethyl)acetamide Dihydrochloride
In Example 1(5), N-((4-(1-chloroethyl)phenyl)methyl)acetamide was used for reaction instead of N-(4-chloromethylphenylmethyl)acetamide and 1-(2-methoxyphenyl)piperazine instead of 1-phenylpiperazine, which was followed by treatment with 4M hydrochloric acid-dioxane in ethanol to give the title compound as white crystals.

reactant | N-((4-(1-chloroethyl)phenyl)methyl)acetamide | ClC(C)C1=CC=C(C=C1)CNC(C)=O | C11H14ClNO
reactant | N-(4-chloromethylphenylmethyl)acetamide | ClCC1=CC=C(C=C1)CNC(C)=O | C10H12ClNO
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | hydrochloric acid dioxane | 4M | Cl.O1CCOCC1
solvent | ethanol | C(C)O | C2H6O
product | N-(4-(1-(4-(2-Methoxyphenyl)piperazin-1-yl)ethyl)phenylmethyl)acetamide Dihydrochloride | Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)C(C)C1=CC=C(C=C1)CNC(C)=O | InChI=1S/C22H29N3O2.2ClH/c1-17(20-10-8-19(9-11-20)16-23-18(2)26)24-12-14-25(15-13-24)21-6-4-5-7-22(21)27-3;;/h4-11,17H,12-16H2,1-3H3,(H,23,26);2*1H
